datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[n+]1cccc([S-:10])c1.Cc1n[nH]c(C(=O)[O:21][H:20])c1[N+](=O)[O-]>>C[n+]1cccc([S:10][H:20])c1.Cc1n[nH]c(C(=O)[O-:21])c1[N+](=O)[O-] 10=20;20,21=21",
"O=C([O-])C(O)C[NH2:10].c1ccc2[nH+]c(-c3ccc[n+:21]([H:20])c3)[nH]c2c1>>O=C([O-])C(O)C[NH2+:10][H:20].c1ccc2[nH+]c(-c3ccc[n:21]c3)[nH]c2c1 10=20;20,21=21",
"CCCCCCCCCC[N+:21](CCO)(CC(C)O)[H:20].c1ccc(Cc2[nH]c3ccc([NH2:10])cc3[nH+]2)cc1>>CCCCCCCCCC[N:21](CCO)CC(C)O.c1ccc(Cc2[nH]c3ccc([NH2+:10][H:20])cc3[nH+]2)cc1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"OCC(C[S-])[S-:10].c1ccc(C2=[N+:21]([H:20])CCN2)nc1>>OCC(C[S-])[S:10][H:20].c1ccc(C2=[N:21]CCN2)nc1 10=20;20,21=21",
"COc1ccc(N)cc1C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc(N)cc1C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)c1cc([N+](=O)[O-])ccc1C(=O)[O:21][H:20].CN[NH:10]C>>CC(=O)c1cc([N+](=O)[O-])ccc1C(=O)[O-:21].CN[NH+:10](C)[H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc(C(c2ccccc2)[OH+:21][H:20])cc1.[NH3+]C(Cc1ccc[nH+]c1)C(=O)[O-:10]>>COc1ccc(C(c2ccccc2)[OH:21])cc1.[NH3+]C(Cc1ccc[nH+]c1)C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)c1ccc[n+:21]([H:20])c1.NC(=O)Nc1c(C(=O)[O-])nc[n-:10]1>>CC(C)c1ccc[n:21]c1.NC(=O)Nc1c(C(=O)[O-])nc[n:10]1[H:20] 10=20;20,21=21",
"Cc1nn(C)c([O-:10])c1-c1ccccc1.O=[N+]([O-])/C(=N/[O:21][H:20])c1ccc(Cl)cc1>>Cc1nn(C)c([O:10][H:20])c1-c1ccccc1.O=[N+]([O-])/C(=N/[O-:21])c1ccc(Cl)cc1 10=20;20,21=21",
"O=S(=O)(Nc1ncccn1)c1ccc([NH2+:21][H:20])cc1.O=[N+]([O-])c1ccc(O)c2c1ccc[n:10]2>>O=S(=O)(Nc1ncccn1)c1ccc([NH2:21])cc1.O=[N+]([O-])c1ccc(O)c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"C[n+]1ccc2ccc([O:21][H:20])cc2c1.O[C@@H]1[C@H](O)[C@@H](n2c[n:10]c3cncnc32)OC[C@@H]1O>>C[n+]1ccc2ccc([O-:21])cc2c1.O[C@@H]1[C@H](O)[C@@H](n2c[n+:10]([H:20])c3cncnc32)OC[C@@H]1O 10=20;20,21=21",
"CCCCCCCCCCCC[NH+:21](c1ccccc1)[H:20].c1ncc2[nH]c[n:10]c2n1>>CCCCCCCCCCCC[NH:21]c1ccccc1.c1ncc2[nH]c[n+:10]([H:20])c2n1 10=20;20,21=21",
"Cc1c(Br)cccc1C(=O)[O-:10].O=C([C@H]1CCCC[C@@H]1O)[O:21][H:20]>>Cc1c(Br)cccc1C(=O)[O:10][H:20].O=C([C@H]1CCCC[C@@H]1O)[O-:21] 10=20;20,21=21",
"CC([NH3+])c1nnn[n:21]1[H:20].O=C(C#CCl)[O-:10]>>CC([NH3+])c1nnn[n-:21]1.O=C(C#CCl)[O:10][H:20] 10=20;20,21=21",
"NCCCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NCCCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C(c1nnn[n-]1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C(c1nnn[n-]1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"BrCCCC[NH2:10].Cc1cc(C(=O)[O:21][H:20])c[nH]1>>BrCCCC[NH2+:10][H:20].Cc1cc(C(=O)[O-:21])c[nH]1 10=20;20,21=21",
"CN/C(CCNS(=O)(=O)c1ccc(C)cc1)=[NH+:21]\[H:20].[NH-]S(=O)(=O)c1cc2c(cc1Cl)NC[N-:10]S2(=O)=O>>CNC(CCNS(=O)(=O)c1ccc(C)cc1)=[NH:21].[NH-]S(=O)(=O)c1cc2c(cc1Cl)NC[N:10]([H:20])S2(=O)=O 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1.[OH-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1.[OH:10][H:20] 10=20;20,21=21",
"CC(C)(C)c1ccc([O-:10])cc1.O=C(NCC(=O)[O:21][H:20])c1ccccc1O>>CC(C)(C)c1ccc([O:10][H:20])cc1.O=C(NCC(=O)[O-:21])c1ccccc1O 10=20;20,21=21",
"C[NH+:21](CC(=O)[O-])[H:20].Nc1ncnc2c1cn[n-:10]2>>C[NH:21]CC(=O)[O-].Nc1ncnc2c1cn[n:10]2[H:20] 10=20;20,21=21",
"NCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1nnn[n:21]1[H:20].O=C(c1ccc([N+](=O)[O-])o1)[O-:10]>>Cc1nnn[n-:21]1.O=C(c1ccc([N+](=O)[O-])o1)[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH+]1CCC(N[NH:10]C)CC1.CCSC(O)(C(F)(F)F)[O:21][H:20]>>CC(C)[NH+]1CCC(N[NH+:10](C)[H:20])CC1.CCSC(O)(C(F)(F)F)[O-:21] 10=20;20,21=21",
"C[N+:21]1([H:20])[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3.C[NH+](C)C(O)[O-:10]>>C[N:21]1[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3.C[NH+](C)C(O)[O:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"C[N:10](C)Cc1cccc(NC(=O)/C=N/[O-])c1.c1cc(N2CCCC2)c2c([N+:21]3([H:20])CCCC3)cccc2c1>>C[N+:10](C)(Cc1cccc(NC(=O)/C=N/[O-])c1)[H:20].c1cc(N2CCCC2)c2c([N:21]3CCCC3)cccc2c1 10=20;20,21=21",
"C[NH+:21](CCc1ccccc1)[H:20].c1ccc(-c2cc([O-:10])n(-c3ccccc3)n2)cc1>>C[NH:21]CCc1ccccc1.c1ccc(-c2cc([O:10][H:20])n(-c3ccccc3)n2)cc1 10=20;20,21=21",
"CC(C)[NH2+]CC(=O)[O-:10].O=[N+]([O-])[N:21](c1nnn[nH]1)[H:20]>>CC(C)[NH2+]CC(=O)[O:10][H:20].O=[N+]([O-])[N-:21]c1nnn[nH]1 10=20;20,21=21",
"Oc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
